US05091384
Preparation of 7-[3,7-diazabicyclo [3.3.0] oct-1(5)-en-3-yl]-1-(2,4-difluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (KR-10817)
1-(2,4-Difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.07 g), 3,7-diazabicyclo [3.3.0] oct-1(5)-ene dihydrobromide (1 g) and 1,8-diazabicyclo [5.4.0] undec-7-ene (DBU, 2 ml) were dissolved in acetonitrile (30 ml) and refluxed for 7 hours. The reaction mixture was kept overnight at room temperature and the produced precipitate was filtered and then suspended in methanol (10 ml) and sonicated for 30 minutes. The insoluble product was collected by filtration to give the title compound (1 g, yield 74%).

reactant | 1-(2,4-Difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.07 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | 3,7-diazabicyclo [3.3.0] oct-1(5)-ene dihydrobromide | 1 g | Br.Br.C1=2CNCC2CNC1
reactant | 1,8-diazabicyclo [5.4.0] undec-7-ene | 2 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 7-[3,7-diazabicyclo [3.3.0] oct-1(5)-en-3-yl]-1-(2,4-difluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1 g, yield 74% | C1=2CN(CC2CNC1)C1=C(C=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C22H15F4N3O3
